US09399619B2
5-Chlorosulfonyl-2-fluoro-benzoic acid (A, 0.508 g, 0.0021 mol), Cyclohexylamine (G, 0.211 g, 0.00212 mol) and DIEA (1.1 mL, 0.00636 mol) in CH2Cl2 were stirred at room temperature overnight. The solvent was evaporated and the crude product was purified by silica gel chromatography (MeOH containing 10% AcOH)/CH2Cl2) to give 5-cyclohexylsulfamoyl-2-fluoro-benzoic acid (H, 0.6 g, 95%). After drying overnight under vacuum, H (0.22 g, 0.737 mmol) in SOC12 (5 mL) was heated at 80° C. for 2 hours after which the SOCl2 was evaporated and the residue was dried overnight. The residue was then dissolved in tetrahydrofuran (5 mL), 3,4-difluoro-phenylamine (D, 95 mg, 0.737 mmol) was added followed by DIEA (0.8 mL). The mixture was heated to 70° C. overnight. The solvent was evaporated, followed by ethyl acetate extraction. After purification by silica gel chromatography (ethyl acetate/hexane), 0.192 g (63%) of 5-cyclohexylsulfamoyl-N-(3,4-difluoro-phenyl)-2-fluoro-benzamide (DVR-45) was obtained.

reactant | 5-Chlorosulfonyl-2-fluoro-benzoic acid | ClS(=O)(=O)C=1C=CC(=C(C(=O)O)C1)F | C7H4ClFO4S
reactant | Cyclohexylamine | 0.00212 mol, 0.211 g | C1(CCCCC1)N | C6H13N
reactant | DIEA | 0.00636 mol, 1.1 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 5-cyclohexylsulfamoyl-2-fluoro-benzoic acid | 0.6 g, 95% | C1(CCCCC1)NS(=O)(=O)C=1C=CC(=C(C(=O)O)C1)F | C13H16FNO4S
